US08466282B2
3-fluoro-2-(4-methoxybutylamino)aniline
2-Fluoro-N-(4-methoxybutyl)-6-nitroaniline (3.54 g) was dissolved in methanol (50 ml), palladium-carbon (5%, 140 mg) was added, and the mixture was stirred for 3.5 hr under a hydrogen atmosphere. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure to give the object product (3.05 g).

reactant | 2-Fluoro-N-(4-methoxybutyl)-6-nitroaniline | 3.54 g | FC1=C(NCCCCOC)C(=CC=C1)[N+](=O)[O-] | C11H15FN2O3
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-carbon | 140 mg | [C].[Pd]
product | 3-fluoro-2-(4-methoxybutylamino)aniline | 3.05 g | FC=1C(=C(N)C=CC1)NCCCCOC | C11H17FN2O
